* NekoSpice model-check example: symbol pin order matches subckt pin order
.subckt GOODAMP IN+ IN- OUT VCC VEE
E1 OUT 0 IN+ IN- 100k
R1 OUT 0 1Meg
.ends GOODAMP
