* NekoSpice example: parameterized RC low-pass transient response
.param rload=1000
V1 in 0 PULSE(0 1 0 1n 1n 1u 2u)
R1 in out {rload}
C1 out 0 1n
.tran 10n 10u
.control
run
.endc
.end

